** Tuned_Amplifier **
* 
* NI Multisim to SPICE Netlist Export
* Generated by: Welcome
* Tue, Jul 06, 2021 22:43:37 
*

*## Multisim Component C4 ##*
cC4 6 3 1e-008

*## Multisim Component L1 ##*
lL1 6 3 2.5

*## Multisim Component V1 ##*
* !!!BEGIN-INTERACT
*  : increment  ++++f8 ;
*  : tmaxvalue  ++++f4 ;
*  : tminvalue  ++++f6 ;
*  0.0          constant mindval
*  100.0        constant maxdval
*  tmaxvalue    VARIABLE maxvalue
*  tminvalue    VARIABLE minvalue
*  50.0         VARIABLE setting
*  0            VARIABLE num_stored
*  0.0          VARIABLE setsourceval
*  0.0          VARIABLE zeroadj
*  0.0          VARIABLE setfactor
*  0            VARIABLE flag
*  0.0          VARIABLE outputval
*
*  :MAP_KEYBOARD_INPUT ++++k1 1 ++++K1  -1 ;
*
*  : UPDATE_SETTINGS
*     *flag 0 = if
*        LOAD_FICL_VARIABLES
*        ==>_*num_stored
*        ==>_*num_stored
*        *num_stored 0 > if
*           ==>_*setting 
*           ==>_*setsourceval
*          *setsourceval SET_INSTANCE vsource ::V V1  dc
*        endif
*      1 ==>_*flag
*      endif
*      0.01 *setting f.* ==>_*setfactor
*      tmaxvalue tminvalue f.- *setfactor f.* tminvalue f.+ ==>_*outputval
*      *outputval VALUE 0 SET_ANIMATION_TEXT_BYID
*      *outputval maxvalue GRADUAL_CHANGE_AT_RUN
*      *outputval *setting 2 0
*      STORE_FICL_VARIABLES
*  ;
*
*  :GRADUAL_CHANGE_AT_RUN locals| ref value |
*    value SET_INSTANCE vsource ::V V1  dc
*  ;
*
*  :KEYBOARD_INPUT locals| shift_state |
*     shift_state (float) increment f.* *setting  f.+  ==>_*setting
*     mindval maxdval *setting f.min f.max ==>_*setting
*     UPDATE_SETTINGS
*  ;
*
*  :BEGIN_PLOT
*     UPDATE_SETTINGS
*  ;
*
*  :BEGIN_ANALYSIS
*    UPDATE_SETTINGS
*  ;
*
*  : INIT_SLIDER
*      maxdval mindval 3 IMOUSE_SET
*  ;
*
*  : ON_IMOUSE_EVENT locals| eType fValue |
*    eType 9 = if
*      -1
*      fValue ==>_*setting
*    else
*      0
*    endif
*    UPDATE_SETTINGS
*  ;
*
*  : GET_INTERACT_VALUE locals| eType |
*      eType 0 = if
*        *setting
*      else eType 1 = if
*        mindval
*      else eType 2 = if
*        maxdval
*      else eType 3 = if
*        increment
*      else
*        0
*      endif endif endif endif
*  ;
*
*  : SET_INTERACT_VALUE locals| eType fValue |
*      eType 0 = if
*        fValue ==>_*setting
*      endif
*      UPDATE_SETTINGS
*  ;
*
*  :ON_USER_UPDATE
*    UPDATE_SETTINGS
*    INIT_SLIDER
*  ;
*
* !!!END-INTERACT
xV1 6 0 VariableDCVoltageV1
.subckt VariableDCVoltageV1 1 2
V1 1 2  10
.ends

*## Multisim Component C3 ##*
cC3 4 0 0.0001

*## Multisim Component C2 ##*
cC2 2 1 1.3e-006

*## Multisim Component C1 ##*
cC1 3 5 1.3e-006

*## Multisim Instrument XSC1 ##*


*## Multisim Component Q1 ##*
qQ1 3 1 4 BC107BP__BJT_NPN__1

*## Multisim Component R4 ##*
rR4 4 0 2500 vresR4  
.model vresR4 r(  )

*## Multisim Component R2 ##*
rR2 1 0 15800 vresR2  
.model vresR2 r(  )

*## Multisim Component R1 ##*
rR1 6 1 28700 vresR1  
.model vresR1 r(  )

*## Multisim Instrument XFG1 ##*
XFG1 0 XFG1_OPEN_2 2 XXFG1_671668696


.MODEL BC107BP__BJT_NPN__1 NPN IS =1.8E-14 ISE=5.0E-14 NF =.9955 NE =1.46 BF =400 BR =35.5
+IKF=.14 IKR=.03 ISC=1.72E-13 NC =1.27 NR =1.005 RB =.56 RE =.6 RC =.25 VAF=80
+VAR=12.5 CJE=13E-12 TF =.64E-9 CJC=4E-12 TR =50.72E-9 VJC=.54 MJC=.33

.subckt XXFG1_671668696 1 2 3
vfgen_src_positive 3 2 dc 0.000000e+000 ac 1.000000000000000000e+001 sin(0.000000000000000000e+000 1.000000000000000000e+001 1.000000000000000000e+000 0)
vfgen_src_negative 2 1 dc 0.000000e+000 ac 1.000000000000000000e+001 sin(0.000000000000000000e+000 1.000000000000000000e+001 1.000000000000000000e+000 0)
.ends


